US08865698B2
(R)-1-tert-butyl-3-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)urea
To a DCM (0.8 mL) solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 25 mg, 0.079 mmol) was added 2-isocyanato-2-methylpropane (9.4 mg, 0.095 mmol) at ambient temperature drop-wise, followed by addition of DIEA (0.028 mL, 0.16 mmol). The reaction was stirred for 4 hours then concentrated, and the residue was directly purified by reverse-phase column chromatography, eluting with 5 to 65% acetonitrile/water to yield the final product as a pale-yellowish solid (27 mg, 82% yield). MS (apci) m/z=415.1 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.079 mmol, 25 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | 2-isocyanato-2-methylpropane | 0.095 mmol, 9.4 mg | N(=C=O)C(C)(C)C | C5H9NO
reactant | DIEA | 0.16 mmol, 0.028 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-tert-butyl-3-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)urea | 27 mg, 82% yield | C(C)(C)(C)NC(=O)NC=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F | C21H24F2N6O
